US04618609
4-(2-Chlorophenyl)-3-ethoxycarbonyl-2-(2-hydroxyethoxymethyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
A 1M solution of borane in tetrahydrofuran (10 ml) was added dropwise over 10 minutes to a stirred, ice-cooled solution of 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetic acid (2.0 g--see preparation 4 of European patent application publication No. 0100189) in tetrahydrofuran (20 ml) and the mixture was allowed to warm to room temperature. The mixture was stirred at room temperature for 3 days, quenched with water (5 ml) and evaporated. The residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate solution and the organic layer was dried over MgSO4 and evaporated. The residual oil was purified by chromatography on silica gel (10 g) using hexane plus 20→50% dichloromethane followed by dichloromethane plus 0→1% methanol as eluant. Appropriate fractions were combined and evaporated and the resulting oil was crystallised from hexane to give the title compound (0.6 g), m.p. 125°-130°.

reactant | borane | B | BH3
reactant | 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetic acid | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)O)C(=O)OCC | C20H22ClNO7
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-2-(2-hydroxyethoxymethyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.6 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCO)C(=O)OCC | C20H24ClNO6
